*Full Wave Bridge Rectifier Simulation with sinusoid input

V1 in 0 SIN(0 5 7000)

D1 in n1 DI_1N4007
D2 0 n1 DI_1N4007
D3 n2 in DI_1N4007
D4 n2 0 DI_1N4007


R1 n1 n2 22k
C1 n1 n2 1u
*C value anything from 1u to 47u is fine
.include 1N4007.mod

.tran 0.1us 1ms
.control
  run
  set wr_singlescale
  wrdata task2sin.dat  v(n1,n2)
.endc

.end
