*Netlist
Vin in 0 AC 5
L in x 1m
C x out 50nF
R out 0 440


.control
AC DEC 30 10 200k
set wr_onespace
set wr_vecnamesng
set wr_singlescale
wrdata band.dat 20*log10(abs(v(out)/v(in)))  phase(v(out)) 
.endc
.end
