*Netlist
Vin in 0 AC 10
C in out 15p
R out 0 1Meg


.control
AC DEC 30 10 1meg
set wr_onespace
set wr_vecnamesng
set wr_singlescale
wrdata stage1.dat 20*log10(abs(v(out)/v(in)))  phase(v(out))
.endc
.end
