*SPICE SIMULATION FOR CHARACTERESTICS OF MOSFET

.include nmos.mod

Vds nd ns DC 3
Vgs ng ns DC 1

Q1 nd ng ns ***IDK


.dc VGS 1 2 0.1 //1 to 2 0.1 increment for Vgs

.control
run

plot I(Vds) vs Vgs
wrdata Id_vs_Vgs.dat Vgs I(Vds)

.endc
.end
